US06461600B1
Preparation of ketamine/carrier mixture.
0.3750 gm ketamine hydrochloride USP, is wetted with 1.5 ml of ethoxy diglycol reagent, and stirred into 75 gm of the base cream prepared as per example 3 and triple milled. A cream-type preparation results which contains ketamine hydrochloride @ 5 mg/ml.

reactant | ketamine hydrochloride | 0.3750 gm | CNC1(CCCCC1=O)C=2C=CC=CC2Cl.Cl
reactant | ethoxy diglycol | 1.5 ml | CCOCCOCCO | C6H14O3
product | ketamine | CNC1(CCCCC1=O)C=2C=CC=CC2Cl | C13H16ClNO
